US05317016
To a solution of (2S,4S)-1-p-nitrobenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol (5.0 g: 9.01 mmole) in dichloromethane (50 ml) stirring at -15° C., triethylamine (1.63 ml: 1.3 eq.) and methanesulfonyl chloride (0.85 ml: 1.1 eq.) are added. The mixture is stirred at -15° to -10° C. for 30 minutes. The reaction mixture is poured into water and extracted with dichloromethane. The extract is successively washed with dilute hydrochloric acid, aqueous sodium hydrogen carbonate, and water, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography (toluene: ethyl acetate=9:1) to give (2S,4S)-1-p-nitrobenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol methanesulfonate (4.86 g). Yield: 85.2%. NMR δ(CDCl3) ppm: 1.65 to 1.93(m, 1H), 2.00 to 2.26(m, 1H), 2.68 to 2.92(m, 3H), 2.96(s, 3H), 3.78 to 3.98(m, 1H), 4.16 to 4.30(m, 1H), 4.38 to 4.52(m, 1H), 5.11(br s, 2H), 7.08 to 7.52(m, 17H), 8.24(d, J=9 Hz, 2H). IR ν (CHCl3) cm-1 : 1699, 1606.

reactant | (2S,4S)-1-p-nitrobenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol | 9.01 mmole, 5.0 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CO)C=C1 | C32H30N2O5S
reactant | triethylamine | 1.63 ml, 1.3 eq. | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.85 ml, 1.1 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2S,4S)-1-p-nitrobenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol methanesulfonate | 4.86 g, Yield: 85.2% | CS(=O)(=O)OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C33H32N2O7S2
